US04908357
In a manner similar to Step E of Example 1, the reaction of 1.0 g (0.0026 mole) of N-[2-(thianaphthalene-2-yl)-2oxoethyl]-4-trifluoromethoxybenzamide with 0.53 g (0.0013 mole) of Lawesson's reagent in 25 ml of toluene yielded 0.45 g of 2-(4-trifluoromethoxyphenyl)-5-(thianaphthalene-2-yl)thiazole as a solid, mp 65-69, compound 40 of Table 1.

reactant | N-[2-(thianaphthalene-2-yl)-2oxoethyl]-4-trifluoromethoxybenzamide | 0.0026 mole, 1.0 g | S1C(C=CC2=CC=CC=C12)C(CNC(C1=CC=C(C=C1)OC(F)(F)F)=O)=O | C19H14F3NO3S
reactant | Lawesson's reagent | 0.0013 mole, 0.53 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(4-trifluoromethoxyphenyl)-5-(thianaphthalene-2-yl)thiazole | 0.45 g | FC(OC1=CC=C(C=C1)C=1SC(=CN1)C1SC2=CC=CC=C2C=C1)(F)F | C19H12F3NOS2
